US07361763B2
To a suspension of AlCl3 (338 mg, 2.54 mmol) in dichloromethane (10 mL) was added 5-bromo-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.507 mmol). After stirring for 30 min, bromoacetyl chloride (0.21 mL, 2.54 mmol) was added and the reaction mixture was stirred for 2 h, before quenching with MeOH at 0° C. The mixture was concentrated in vacuo, the pH was changed to 7 by addition of a saturated solution of aqueous sodium bicarbonate, and the aqueous layer was extracted twice with EtOAc. The organic layer was dried over MgSO4 and filtered through a plug of silica gel. Solvent was evaporated to dryness to give 2-bromo-1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone as a light yellow solid (160 mg, quantitative). 1H NMR (500 MHz, DMSO-d6) δ 4.70 (s, 2H), 8.44 (d, J=2.0 Hz, 1H), 8.55 (d, J=2.5 Hz, 1H), 8.68 (d, J=3.5 Hz, 1H), 12.9 (s, 1H). MS: m/z 316 (M+H+).

reactant | AlCl3 | 2.54 mmol, 338 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 0.507 mmol, 100 mg | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | bromoacetyl chloride | 2.54 mmol, 0.21 mL | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-bromo-1-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | BrCC(=O)C1=CNC2=NC=C(C=C21)Br | C9H6Br2N2O
